US07485634B2
Preparation of 3-(4-fluorobenzoyl)-7-hydroxy-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylic acid ethyl ester
A mixture of 7-benzyloxy-3-(4-fluorobenzoyl)-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylic acid ethyl ester (82 mg, 0.17 mmol) and 10% Pd/C (82 mg) and 1,4-cyclohexadiene (0.15 mL, 1.58 mmol) was stirred at 50° C. for 2 hours. The catalyst was filtered off, and the filtrate was concentrated in vacuo. The residue was purified by chromatography on silica gel eluting with hexane-EtOAc (85:15) to give the title compound as a yellow solid (42 mg, 62%); 1H-NMR (CDCl3): δ 10.56 (1H, s), 8.0 (1H, s), 7.64-7.59 (2H, m), 7.20-7.11(3H, m), 6.97-6.93 (1H, m), 6.61-6.55 (1H, m), 5.33 (1H, br s), 4.27-4.20 (4H, m), 3.26-3.23 (2H, m), 1.25 (3H, t);

reactant | 7-benzyloxy-3-(4-fluorobenzoyl)-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylic acid ethyl ester | 0.17 mmol, 82 mg | C(C)OC(=O)C1=CN(CCC2=C1NC=1C(=CC=CC21)OCC2=CC=CC=C2)C(C2=CC=C(C=C2)F)=O | C29H25FN2O4
reactant | 1,4-cyclohexadiene | 1.58 mmol, 0.15 mL | C1=CCC=CC1 | C6H8
catalyst | Pd/C | 82 mg | [Pd] | Pd
product | 3-(4-fluorobenzoyl)-7-hydroxy-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylic acid ethyl ester | 42 mg, 62% | C(C)OC(=O)C1=CN(CCC2=C1NC=1C(=CC=CC21)O)C(C2=CC=C(C=C2)F)=O | C22H19FN2O4
